US04410539
To a solution of imidazole (0.23 g.) in dry N,N-dimethylformamide (10 ml.) was added sodium hydride (0.17 g. of 50% dispersion in mineral oil) and the mixture was stirred for 30 minutes. A solution of 5-chloromethyl-3-methylbenzo[b]thiophene-2-carboxylic acid methyl ester (0.82 g.) in dry N,N-dimethylformamide (10 ml.) was then added dropwise with stirring and the resulting mixture was stirred at room temperature for 2.5 hours and then evaporated. The residue was poured into water and the mixture was extracted several times with ethyl acetate. The combined extracts were washed with water, dried (Na2SO4) and evaporated to give a solid which was chromatographed on silica gel. Elution with chloroform gave first some impurity followed by pure product. The product containing fractions were combined to give a solid which was crystallized from ethyl acetate/petrol (b.p. 60°-80°) to give 5-(1-imidazolylmethyl)-3-methylbenzo[b]thiophene-2-carboxylic acid methyl ester (0.30 g.), m.p. 136°-138°.

reactant | imidazole | 0.23 g | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 0.17 g | [H-].[Na+]
reactant | 5-chloromethyl-3-methylbenzo[b]thiophene-2-carboxylic acid methyl ester | 0.82 g | COC(=O)C1=C(C2=C(S1)C=CC(=C2)CCl)C | C12H11ClO2S
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-(1-imidazolylmethyl)-3-methylbenzo[b]thiophene-2-carboxylic acid methyl ester | 0.30 g | COC(=O)C1=C(C2=C(S1)C=CC(=C2)CC=2NC=CN2)C | C15H14N2O2S
